### PR TITLE
feat(Data/Sym/Sym2/Card): cardinality theorems about `Sym2 α`

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 1]
```diff
@@ -0,0 +1,94 @@
...
+
+public import Mathlib.Data.Set.Card
+public import Mathlib.Data.Sym.Sym2
+
+/-!
+# Cardinality of `Sym2`
+
+This file compares the cardinalities of `Sym2 α` and `α × α` and related sets, such as the
+equivalence class of a specific `z : Sym2 α`, or `Sym2.fromRel` sets.
+-/
```
Comment (joneugster) [inline Mathlib/Data/Sym/Sym2/Card.lean:18]: Unless `fiber` is standard notation in various other mathlib files, could you maybe mention here in the module docstring (e.g. section `## Implementation Notes`) the naming choice `fiber` standing for `Sym2.mk.uncurry ⁻¹' _`

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 2]
```diff
@@ -0,0 +1,94 @@
...
+
+public section
+
+namespace Sym2
+
+variable {α : Type*}
+
+/-- The equivalence class of an unordered pair -/
+theorem mk_fiber (a b : α) : Sym2.mk.uncurry ⁻¹' {s(a, b)} = {(a, b), (b, a)} := by
```
Comment (joneugster) [inline Mathlib/Data/Sym/Sym2/Card.lean]: From the hover text of `{ ... }`:

> The recommended spelling of {x} in identifiers is singleton

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 3]
```diff
@@ -0,0 +1,94 @@
...
+    (Sym2.mk.uncurry ⁻¹' {z}).ncard = if z.IsDiag then 1 else 2 := by
+  split_ifs with h
+  · rw [Sym2.ncard_mk_fiber_of_isDiag h]
+  · rw [Sym2.ncard_mk_fiber_of_not_isDiag h]
+
+theorem ncard_mk_fiber_eq_card_toFinset [DecidableEq α] {z : Sym2 α} :
+    (Sym2.mk.uncurry ⁻¹' {z}).ncard = z.toFinset.card := by
+  rw [Sym2.ncard_mk_fiber, Sym2.card_toFinset]
+
+theorem ncard_mk_fiber_le (z : Sym2 α) : (Sym2.mk.uncurry ⁻¹' {z}).encard ≤ 2 := by
```
Comment (joneugster) [inline Mathlib/Data/Sym/Sym2/Card.lean]:
```suggestion
theorem encard_mk_fiber_le (z : Sym2 α) : (Sym2.mk.uncurry ⁻¹' {z}).encard ≤ 2 := by
```
?

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 4]
```diff
@@ -0,0 +1,94 @@
...
+  change Cardinal.mk (Sym2.mk.uncurry ⁻¹' {z}) ≤ 2
+  cases z
+  grw [Sym2.mk_fiber, ← Set.cast_ncard, Set.ncard_insert_le]
+    <;> simp
+
+section fromRel
+
+variable {r : α → α → Prop} (sym : Symmetric r)
+
+theorem cardinalMk_prod_le_two_mul_cardinalMk_fromRel :
```
Comment (joneugster) [inline Mathlib/Data/Sym/Sym2/Card.lean:121]:
```suggestion
theorem cardinalMk_prod_subtype_le :
```
suggestion

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 5]
```diff
@@ -0,0 +1,94 @@
...
+  rw [← Equiv.sigmaSubtypeFiberEquivSubtype Sym2.mk.uncurry (q := (· ∈ Sym2.fromRel sym)) (by simp)
+    |>.cardinal_eq, Cardinal.mk_sigma, mul_comm]
+  grw [Cardinal.sum_le_mk_mul_iSup]
+  apply mul_le_mul_right <| ciSup_le' fun z ↦ ?_
+  change Cardinal.mk (Sym2.mk.uncurry ⁻¹' {z.val}) ≤ 2
+  rcases z with ⟨⟨⟩⟩
+  grw [Sym2.mk_fiber, ← Set.cast_ncard, Set.ncard_insert_le]
+    <;> simp
+
+theorem cardinalMk_prod_eq_two_mul_cardinalMk_fromRel (irrefl : Std.Irrefl r) :
```
Comment (joneugster) [inline Mathlib/Data/Sym/Sym2/Card.lean]:
```suggestion
theorem cardinalMk_prod_subtype_eq_of_irrefl (irrefl : Std.Irrefl r) :
```
suggestion

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 6]
```diff
@@ -0,0 +1,94 @@
...
+theorem ncard_mk_fiber_eq_card_toFinset [DecidableEq α] {z : Sym2 α} :
+    (Sym2.mk.uncurry ⁻¹' {z}).ncard = z.toFinset.card := by
+  rw [Sym2.ncard_mk_fiber, Sym2.card_toFinset]
+
+theorem ncard_mk_fiber_le (z : Sym2 α) : (Sym2.mk.uncurry ⁻¹' {z}).encard ≤ 2 := by
+  classical
+  rw [← z.finite_mk_fiber.cast_ncard_eq, z.ncard_mk_fiber]
+  split_ifs <;> norm_cast
+
+theorem cardinalMk_prod_le (α : Type*) : Cardinal.mk (α × α) ≤ 2 * Cardinal.mk (Sym2 α) := by
```
Comment (joneugster) [inline Mathlib/Data/Sym/Sym2/Card.lean]: up to here the proofs are really clean and neat but the remaining three are a bit less so. Do you think you could give it a look if they can be cleaned up further?

In particular, the following line is quite an eye-sore and, I'm a bit worried, a potential maintenance burden:

```
rw [← Equiv.sigmaSubtypeFiberEquivSubtype Sym2.mk.uncurry (q := (· ∈ Sym2.fromRel sym)) (by simp)
    |>.cardinal_eq, Cardinal.mk_sigma, mul_comm]
```

Moreover, I'm not a huge fan of `change` if it can be avoided.

**Review by joneugster — COMMENTED** [review]
Sorry for deprioritising this PR over the last weeks.

Overall the PR looks good to me and the comments are all technicalities, so I assume we can get the PR going rather quickly.

File: Mathlib/Data/Sym/Sym2/Card.lean (hunk 1 above)
Comment (SnirBroshi) [reply Mathlib/Data/Sym/Sym2/Card.lean:18]: I don't feel strongly about this, but I used the name `fiber` because that's what other parts of Mathlib seem to use when referring to preimages of singletons.

[Loogle](https://loogle.lean-lang.org/?q=%22fiber%22%2C+Set.preimage)
[Wikipedia](https://en.wikipedia.org/wiki/Fiber_(mathematics))

Wdyt?

File: Mathlib/Data/Sym/Sym2/Card.lean (hunk 4 above)
Comment (SnirBroshi) [reply Mathlib/Data/Sym/Sym2/Card.lean:121]: This theorem is about `Sym2.fromRel` so I think the name should mention it.
How about just the RHS: `le_two_mul_cardinalMk_fromRel`?
Similarly below

Comment (joneugster) [reply Mathlib/Data/Sym/Sym2/Card.lean:121]: It's fine by me to keep the name as you have it! Was just a suggestion. Same below

File: Mathlib/Data/Sym/Sym2/Card.lean (hunk 1 above)
Comment (joneugster) [reply Mathlib/Data/Sym/Sym2/Card.lean:18]: I see, it's indeed always the fibre of a singleton and the `mk` in `mk_fiber` refers to `Sym2.mk.uncurry`. I guess this is reasonably consistent and we can leave this as is 👍

File: Mathlib/Data/Sym/Sym2/Card.lean (hunk 2 above)
Comment (joneugster) [reply Mathlib/Data/Sym/Sym2/Card.lean]: (see above)

**Comment by joneugster** [comment]
See question about maintainability of last three proofs above

maintainer merge?

File: Mathlib/Data/Sym/Sym2/Card.lean (hunk 6 above)
Comment (themathqueen) [reply Mathlib/Data/Sym/Sym2/Card.lean]: The `change` is done three times and they're all the same. I think this suggests that the following is missing:
```lean4
lemma uncurry_mk_preimage_singleton (z : Sym2 α) :
    Sym2.mk.uncurry ⁻¹' {z} = {x | Sym2.mk.uncurry x = z} := rfl
```
and then you can rewrite using `rw [← Set.coe_setOf, ← uncurry_mk_preimage_singleton]`.

Comment (SnirBroshi) [reply Mathlib/Data/Sym/Sym2/Card.lean]: Thanks, added in 84ab76a63bb81bc140b2778ef2760f91611bc82a as `Set.preimage_singleton`.
btw I left the `awaiting-author` label on this because I didn't yet handle this cleanup request

Comment (SnirBroshi) [reply Mathlib/Data/Sym/Sym2/Card.lean]: Well I tried for a while and I'm not sure there's much room for improvement, so hopefully others can suggest better ideas.
The `Equiv... |>.cardinal_eq` stuff don't look great, but adding a `have` or a `private theorem` for them looks worse IMO. I think the reason as to why the last 3 theorems have more complicated proofs is because they're the nontrivial theorems in this file, and the reason for its existence, while the rest are "API" lemmas.

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 7]
```diff
@@ -0,0 +1,96 @@
...
+public section
+
+namespace Sym2
+
+open scoped Cardinal
+
+variable {α : Type*}
+
+/-- The equivalence class of an unordered pair -/
+theorem mk_fiber (a b : α) : Sym2.mk.uncurry ⁻¹' {s(a, b)} = {(a, b), (b, a)} := by
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2/Card.lean]: Isn't `Sym2.mk.uncurry` better spelt `Quotient.mk`?

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 8]
```diff
@@ -0,0 +1,96 @@
...
+    (Sym2.mk.uncurry ⁻¹' {z}).ncard = if z.IsDiag then 1 else 2 := by
+  split_ifs with h
+  · rw [Sym2.ncard_mk_fiber_of_isDiag h]
+  · rw [Sym2.ncard_mk_fiber_of_not_isDiag h]
+
+theorem ncard_mk_fiber_eq_card_toFinset [DecidableEq α] {z : Sym2 α} :
+    (Sym2.mk.uncurry ⁻¹' {z}).ncard = z.toFinset.card := by
+  rw [Sym2.ncard_mk_fiber, Sym2.card_toFinset]
+
+theorem encard_mk_fiber_le (z : Sym2 α) : (Sym2.mk.uncurry ⁻¹' {z}).encard ≤ 2 := by
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2/Card.lean:62]: Why do we only care about the `le` version for `encard`? Should we have the `ncard` version too?

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 9]
```diff
@@ -0,0 +1,96 @@
...
+  classical
+  rw [← z.finite_mk_fiber.cast_ncard_eq, z.ncard_mk_fiber]
+  split_ifs <;> norm_cast
+
+theorem cardinalMk_prod_le (α : Type*) : #(α × α) ≤ 2 * #(Sym2 α) := by
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2/Card.lean]: Is `2 * #(Sym2 α) = #α * (#α + 1)` true? Is there a reason we don't prove this first?

File: Mathlib/Data/Sym/Sym2/Card.lean (hunk 7 above)
Comment (SnirBroshi) [reply Mathlib/Data/Sym/Sym2/Card.lean]: It can be spelt `Quot.mk (Sym2.Rel α)` (or usually `Quot.mk _`), but I'd argue this is a slight defeq abuse, and it causes issues in the two `fromRel` proofs because of it.

File: Mathlib/Data/Sym/Sym2/Card.lean (hunk 8 above)
Comment (SnirBroshi) [reply Mathlib/Data/Sym/Sym2/Card.lean:62]: Because `ncard = 0` for infinite sets, so `ncard ≤ 2` means that the set either has two or fewer elements, or it is infinite, so I'm not sure how useful that is.

**Comment by SnirBroshi** [comment]
@eric-wieser Should I add to the new `Data/Sym/NatCard.lean` instead of creating a new file? The imports make sense but the filename seems strange (specifically the `Nat` part).

File: Mathlib/Data/Sym/Sym2/Card.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/Data/Sym/Sym2/Card.lean]: I don't think this counts as defeq abuse, because `Sym2` is an abbrev.

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 10]
```diff
@@ -0,0 +1,106 @@
...
+public section
+
+namespace Sym2
+
+open scoped Cardinal
+
+variable {α : Type*}
+
+/-- The equivalence class of an unordered pair -/
+theorem mk_fiber (a b : α) : Sym2.mk.uncurry ⁻¹' {s(a, b)} = {(a, b), (b, a)} := by
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2/Card.lean]: I think this belongs in a much earlier file?

File: Mathlib/Data/Sym/Sym2/Card.lean (hunk 7 above)
Comment (SnirBroshi) [reply Mathlib/Data/Sym/Sym2/Card.lean]: This is the spelling used in other parts of the API ([Loogle](https://loogle.lean-lang.org/?q=Sym2%2C+Sym2.mk%2C+Function.uncurry)). If we want to change that, it should probably happen in a separate PR, and this PR should carry on with `Sym2.mk.uncurry`.

Comment (eric-wieser) [reply Mathlib/Data/Sym/Sym2/Card.lean]: Thanks, that's compelling

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 11]
```diff
@@ -0,0 +1,154 @@
...
+
+public section
+
+namespace Sym2
+
+open scoped Cardinal
+
+variable {α : Type*}
+
+theorem finite_sym2_iff : Finite (Sym2 α) ↔ Finite α :=
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2/Card.lean:29]:
```suggestion
@[simp]
theorem finite_sym2_iff : Finite (Sym2 α) ↔ Finite α :=
```

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 12]
```diff
@@ -0,0 +1,154 @@
...
+  ⟨fun _ ↦ diagElemEquiv.finite_iff.mp Subtype.finite, fun _ ↦ inferInstance⟩
+
+theorem infinite_sym2_iff : Infinite (Sym2 α) ↔ Infinite α := by
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2/Card.lean:33]:
```suggestion
@[simp]
theorem infinite_sym2_iff : Infinite (Sym2 α) ↔ Infinite α := by
```

File: Mathlib/Data/Sym/Sym2/Card.lean (hunk 8 above)
Comment (eric-wieser) [reply Mathlib/Data/Sym/Sym2/Card.lean:62]: I'm actually thinking that we should drop this lemma  and have one that eliminates encard with `z.finite_mk_fiber.cast_ncard_eq`

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 13]
```diff
@@ -0,0 +1,154 @@
...
+    (Sym2.mk.uncurry ⁻¹' {z}).ncard = z.toFinset.card := by
+  rw [ncard_mk_fiber, card_toFinset]
+
+theorem encard_mk_fiber_le (z : Sym2 α) : (Sym2.mk.uncurry ⁻¹' {z}).encard ≤ 2 := by
+  classical
+  rw [← z.finite_mk_fiber.cast_ncard_eq, z.ncard_mk_fiber]
+  split_ifs <;> norm_cast
+
+variable (α) in
+theorem cardinalMk_diagSet : #(@diagSet α) = #α :=
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2/Card.lean:69]: `simp`?

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 14]
```diff
@@ -0,0 +1,154 @@
...
+  Sym2.diagElemEquiv.cardinal_eq
+
+variable (α) in
+theorem two_mul_cardinalMk_diagSet_compl_add_cardinalMk :
+    2 * #(diagSetᶜ : Set (Sym2 α)) + #α = #α * #α := by
+  classical
+  have : Bool × (diagSetᶜ : Set (Sym2 α)) ⊕ α ≃ α × α := {
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2/Card.lean]: This is probably worth at least a `private def`

File: Mathlib/Data/Sym/Sym2.lean [hunk 15]
```diff
@@ -172,6 +172,9 @@ protected abbrev recOnSubsingleton {motive : Sym2 α → Sort*}
 
 theorem mk_surjective : (Sym2.mk (α := α)).uncurry.Surjective := Quot.mk_surjective
 
+theorem mk_fiber (a b : α) : Sym2.mk.uncurry ⁻¹' {s(a, b)} = {(a, b), (b, a)} := by
```
Comment (Vierkantor) [inline Mathlib/Data/Sym/Sym2.lean:175]: Not sure about this name (and the other names involving "fiber"). I understand that "fiber" is a convenient way to write "the preimage of a singleton", but I can find a lot of `preimage_singleton` in lemma names too. Is this something spelled out somewhere?

**Review by Vierkantor — APPROVED** [review]
Overall good code, one naming convention question (but one I'm willing to be persuaded over). Nice job!

File: Mathlib/Data/Sym/Sym2.lean (hunk 15 above)
Comment (SnirBroshi) [reply Mathlib/Data/Sym/Sym2.lean:175]: I unresolved the first review comment on this PR; Does my response there make sense?

File: Mathlib/Data/Sym/Sym2/Card.lean [hunk 16]
```diff
@@ -0,0 +1,158 @@
...
+
+theorem finite_mk_fiber (z : Sym2 α) : (Sym2.mk.uncurry ⁻¹' {z}).Finite := by
+  cases z
+  simp [mk_fiber]
+
+theorem ncard_mk_fiber_of_isDiag {z : Sym2 α} (hz : z.IsDiag) :
+    (Sym2.mk.uncurry ⁻¹' {z}).ncard = 1 := by
+  cases z
+  cases hz
+  simp [mk_fiber]
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2/Card.lean]: I think this can be replaced with
```lean
theorem mk_fiber_of_isDiag {z : Sym2 α} (hz : z.IsDiag) :
    (Sym2.mk.uncurry ⁻¹' {z}) = {(z.diagElem hz, z.diagElem hz)}
```

File: Mathlib/Data/Sym/Sym2.lean [hunk 17]
```diff
@@ -550,6 +544,13 @@ theorem diagElem_mk {a b : α} (h : IsDiag s(a, b)) : s(a, b).diagElem h = a :=
 theorem diag_diagElem (h : z.IsDiag) : diag (z.diagElem h) = z := by
   cases z; cases h; rfl
 
+theorem mk_fiber_of_isDiag (hz : z.IsDiag) :
```
Comment (eric-wieser) [inline Mathlib/Data/Sym/Sym2.lean:547]: `@[simp]`?

Comment (SnirBroshi) [reply Mathlib/Data/Sym/Sym2.lean:547]: I thought about it but the hypothesis makes it a bit weird, no?

File: Mathlib/Data/Sym/Sym2.lean (hunk 15 above)
Comment (Vierkantor) [reply Mathlib/Data/Sym/Sym2.lean:178]: Okay, I am sufficiently convinced. :) Could you please mention this in the Notation section of the module docs?

**Review by Vierkantor — APPROVED** [review]
LGTM, does Eric have an opinion before merging?

bors d=@eric-wieser
